Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
Syncope
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
PCP: ___ ___, confirmed with patient, last saw 
PCP ___ 2 weeks ago

Admission ___ 22:00

CC:syncope

HPI: ___ M with hep C, HTN, DM, 1 month of syncopal episodes, all 
very brief. total of ___ episodes, always preceeded by cough.  
Other than the cough, there is no prodromal symptoms. He has not 
braced himself for any falls as noted by laceration on his face 
and now wrist or arm injuries. He also complains of some SOB 
which is subacute and occurs at rest. Has falled an hit his head 
multiple time and falled on his sides that resulted in pleuritic 
chest pain. He was recently seen in ER at ___ where 
a w/u for his syncope was started, but he left AMA. he then came 
to ___ today and told them his story and he was sent 
to the ER. Last happen 3 days ago. 

In ER: (Triage Vitals:98.3 P 86 BP 153/98 95RA) Meds Given:ASA 
325, Fluids given: Radiology Studies:CTA with mod right sided 
pleural effusion consistant with simple fluid with some old 
blood(not acute hemothorax) and acute ___, and left 
9th rib fractures, surgery consult called and recommended no 
chest tube and pain control. Had episode in ER while waiting 
that was captured on tele without event.

ROS:  
-Constitutional: [x]WNL []Weight loss []Fatigue/Malaise []Fever 
[]Chills/Rigors []Nightweats []Anorexia  
-Eyes: []WNL []Blurry Vision []Diplopia []Loss of Vision 
[]Photophobia  
-ENT: [x]WNL []Dry Mouth []Oral ulcers []Bleeding gums/nose 
[]Tinnitus []Sinus pain []Sore throat  
-Cardiac: [x]WNL []Chest pain []Palpitations ___ edema 
[]Orthopnea/PND []DOE  
-Respiratory: []WNL [x]SOB []Pleuritic pain []Hemoptysis []Cough 
 
-Gastrointestinal: [x]WNL []Nausea []Vomiting []Abdominal pain 
[]Abdominal Swelling []Diarrhea []Constipation []Hematemesis 
[]Hematochezia []Melena  
--Musculoskeletal: [x]WNL []Myalgias []Arthralgias []Back pain  
-Neurological: [x ]WNL []Numbness of extremities []Weakness of 
extremities []Parasthesias []Dizziness/Lightheaded []Vertigo 
[]Confusion []Headache  
 
Past Medical History:
psoriatic arthritis
diabetes
smoking
hep c with undetectable viral load
hypertension
ADD
depression
h/o etoh abuse, sober for ___ years
chronic renal insufficiency 

 
Social History:
___
Family History:
strong fhx of psychiatric disease. mother committed suicide, 
sister with severe depression. father died in ___ from what 
sounds like AAA.
 
Physical Exam:
ADMISSION:

VS: T 97.9 P 70 BP 157/93 RR 18 O295 %RA 
Gen: Well appearing, no acute distress, breathing comfortably 
awake, alert, appropriate, and oriented x 3
Skin: warm to touch, diffuse plaques with erythemetous bases
HEENT: No conjunctival pallor, no scleral jaundice, PERRLA, 
EOMI, OP clear, no cervical LAD, no palpable thyroid nodules.
CV: diminished heart sounds, RRR no audible m/r/g, pulses 2+, No 
peripheral edema.
Lungs: dullness at right base, lower ribs tender bilaterally
Abd: soft, NT, normal BS, obese but without obvious ascites
Ext: No C/C/E
Neuro: strength and sensation intact bilaterally. 

 
Pertinent Results:
CT CHEST:
CTA CHEST: There is no pulmonary embolism. There is no acute 
aortic 
pathology. However, 1 cm above the sinotubular ridge, the 
ascending thoracic aorta measures 4.2 cm. At the level of the 
main pulmonary artery, the descending aorta measures 3.1 cm, and 
at the level of the diaphragmatic hiatus, the aorta measures 2.5 
cm. There is no dissection. There is marked coronary artery 
vascular calcification and calcification of the aortic valve. 
There is no pericardial effusion. There are 9-mm cardiophrenic 
nodes. 
  
There is a small-to-moderate size right pleural effusion 
measuring simple 
density ___ Hounsfield units). There is adjacent compressive 
atelectasis. There is a 2.5 x 1.9-cm nodule at the right base 
containing coarse calcifications and soft tissue density most 
consistent with a hamartoma. There is atelectasis at the left 
base. 13 x 12 mm pulmonary nodule at the right apex (3:10). 
There is no axillary, hilar, or mediastinal lymphadenopathy. 
  
This study is not tailored for subdiaphragmatic evaluation. 
Given these 
limitations, the partially visualized upper abdominal organs 
appear grossly unremarkable apart from calcifications of the 
splenic artery. 
  
BONE WINDOWS: There are no suspicious sclerotic or lytic 
lesions. There are acute right-sided sixth, seventh and eighth 
rib fractures. There is an acute left ninth rib fracture. There 
are multiple chronic bilateral rib fractures. 
  
IMPRESSION: 
1. No pulmonary embolism. 
2. Acute right-sided sixth, seventh and eighth rib fractures and 
left ninth rib fractures with multiple chronic bilateral rib 
fractures. 
3. 13-mm nodule at the right apex. The patient will require 
three-month 
interval chest CT to assess for change. Benign-appearing 
hamartoma at the 
right base also noted. 
4. Mild dilation of the thoracic aorta as described. 
5. Coronary artery vascular calcifications.  
6. Right pleural effusion with compressive atelectasis. 

ECHO:
The left atrium is mildly dilated. There is moderate symmetric 
left ventricular hypertrophy. The left ventricular cavity is 
moderately dilated. Due to suboptimal technical quality, a focal 
wall motion abnormality cannot be fully excluded. Overall left 
ventricular systolic function is normal (LVEF>55%). There is no 
left ventricular outflow obstruction at rest or with Valsalva. 
Right ventricular chamber size and free wall motion are normal. 
The aortic root is moderately dilated at the sinus level. The 
ascending aorta is moderately dilated. The number of aortic 
valve leaflets cannot be determined, but appear to be bicuspid. 
The aortic valve leaflets are moderately thickened. There is 
mild aortic valve stenosis (valve area 1.5 cm2). Mild to 
moderate (___) aortic regurgitation is seen. The aortic 
regurgitation jet is eccentric. The mitral valve leaflets are 
mildly thickened. Trivial mitral regurgitation is seen. The 
estimated pulmonary artery systolic pressure is normal. There is 
no pericardial effusion. 

IMPRESSION: Suboptimal image quality. Moderate concentric 
hypertrophy with preserved biventricular global systolic 
function. Dilated left ventricular cavity. Possible bicuspid 
aortic valve with mild aortic stenosis and mild to moderate 
eccentric aortic regurgitation. Moderately dilated aorta. No 
structural cause of syncope identified.

PERTINENT LABS:
- CHEM 7: GLUCOSE-115* UREA N-33* CREAT-1.4* SODIUM-138 
POTASSIUM-4.4 CHLORIDE-103 TOTAL CO2-24 ANION GAP-15
- CBC:  WBC-6.8 RBC-4.26* HGB-13.1* HCT-36.4* MCV-86 MCH-30.6 
MCHC-35.8* RDW-14.___ with h/o syncope following cough. Suspect this is a 
situational syncope possibly a vasovagal response to coughing.  
Patient also on 5 antihypertenzive medications including 
Labetalol.  Given syncope likely related to cough and vasovagal 
discontinued beta blocker to allow for compensatory heart rate 
response. Additionally, logn discussion was had with patient 
abotu smoking cessation as inciting event is coughing which 
patient states is caused by his smoking.  Patient to discuss 
with PCP.

Echo showed concerntric LVH with normal EF and no cause for 
syncope.  Abdominal ultrasound was done and read is still 
pending at time of discharge.  Wet read from radiology showed no 
ascites. Patient also found to have small-moderate effusion on 
CT, surgery was consulted and determined drainage was not 
necessary.  Patient to have repeat CXR in 1 week when he follows 
up with his PCP to ensure decrease in effusion.  Rib fractures 
also seen on CT. Patient discharged with several days of pain 
medications. ___ with 2 sets.  EKG and tele with out 
evidence of heart block.  BP's were within normal range for 
duration of hospital stay. All other chronic medical problems 
were stable and treated with home medications. 

Patient discharged in stable condition with PCP follow up.

 
Medications on Admission:
dexazosin 1 bid
dextroamphetamine XL 30 mg qdialy
buspar 30 bid
celexa 20 qdaily
neuorontin ___
ativan 0.5 tid
glipizide 10 bid
lisinopril/hctz ___ mg daily
norvasc 10 daily
labetalol 600 bid
metformin 1000 bid
diovant/hctz 320/25 daily
NPH ___ am/pm
lipitor 10 daily
sulfasalazine 500 tid

 
Discharge Medications:
1. Citalopram 20 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
2. Doxazosin 1 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).  
3. Buspirone 30 mg Tablet Sig: One (1) Tablet PO once a day.  
4. Sulfasalazine 500 mg Tablet Sig: One (1) Tablet PO TID (3 
times a day).  
5. Gabapentin 300 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
6. Dextroamphetamine 10 mg Tablet Sig: One (1) Tablet PO three 
times a day.  
7. Gabapentin 300 mg Capsule Sig: Two (2) Capsule PO HS (at 
bedtime).  
8. Lorazepam 0.5 mg Tablet Sig: One (1) Tablet PO Q8H (every 8 
hours) as needed for anxiety.  
9. Oxycodone-Acetaminophen ___ mg Tablet Sig: One (1) Tablet 
PO Q4H (every 4 hours) as needed for pain: Do not take tylenol 
while on this medication.  Do not drink alcohol or drive while 
taking this medication.
Disp:*20 Tablet(s)* Refills:*0*
10. Alum-Mag Hydroxide-Simeth 200-200-20 mg/5 mL Suspension Sig: 
___ MLs PO QID (4 times a day) as needed for upset stomach.  
11. Glipizide 10 mg Tablet Sig: One (1) Tablet PO once a day.  
12. Metformin 1,000 mg Tablet Sig: One (1) Tablet PO twice a 
day.  
13. Insulin NPH Human Recomb 100 unit/mL Cartridge Sig: ___ 
units Subcutaneous qam/qpm.  
14. Amlodipine 10 mg Tablet Sig: One (1) Tablet PO once a day.  
15. Lipitor 10 mg Tablet Sig: One (1) Tablet PO once a day.  
16. Diovan HCT ___ mg Tablet Sig: One (1) Tablet PO once a 
day.  
17. Lisinopril-Hydrochlorothiazide ___ mg Tablet Sig: One (1) 
Tablet PO once a day.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
Syncope

Secondary:
Psoriatic Arthritis
Diabetes
Tobacco use Disorder
Hepatitis C with undetectable viral load
Hypertension
ADD
Depression
H/o etoh abuse, sober for ___ years
Chronic renal insufficiency 
Obesity

 
Discharge Condition:
Vitals stable, ambulating without difficulty.

 
Discharge Instructions:
You were admitted with recurrent fainting when you cough.  It is 
likely that your blood pressure drops when you cough and causes 
you to faint.  You were also on a medication that lowers heart 
rate which may contribute to fainting.  This medication was 
stopped.  

You had an ultrasound of your heart that showed evidence of long 
standing high blood pressure, but nothing that would cause 
fainting. 

You had an abominal ultrasound that showed no fluid in your 
abdomen, though the final read of this is still pending.  If it 
abnormal, you will be contacted.

You had several rib fractures that were seen on CT scan and on 
your chest x-ray.  Additionally, you had some fluid around your 
right lung that is likely related to your rib fractures.  You 
need to have a follow up chest x-ray next week to ensure that 
this fluid collection is resolving.  Your primary care doctor is 
aware of the need for this chest x-ray.

The following medication changes were made:
- STOPPED:  Labetalol, please stop taking this medication.
- ADDED:  Percocet 1 tab every 4 hours as needed for pain.  DO 
NOT take any additional Tylenol with this.  Additionally, do not 
drink alcohol or drive while on this medication as it can cause 
drowsiness.

No other medication changes were made.  You should continue all 
your other home medications as directed.

Your smoking is likely worsening your cough.  You were provided 
smoking cessation counseling.  You should speak with your 
primary care doctor to discuss this further.

If you have dizziness, lightheadedness, fainting, shortness of 
breath, chest pain, high fever, severe abdominal pain or any 
other concerning symptom, please seek medical care immediately.

It was a pleasure meeting you and participating in your care.
 
Followup Instructions:
___